US07842701B2
3-amino-2-(3-aminophenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
A mixture of 3-amino-2-(3-nitrophenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (150 mg), 10% palladium/active carbon (50% water, 40 mg), tetrahydrofuran (10 ml) and methanol (30 ml) was stirred under hydrogen atmosphere, at room temperature for 3 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. To the residue was added methanol, and the precipitated solid was collected by filtration, washed with methanol, and dried to obtain the target compound (120 mg).

reactant | 3-amino-2-(3-nitrophenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 150 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC(=CC=C2)[N+](=O)[O-] | C16H11N5O3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium | 40 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 3-amino-2-(3-aminophenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 120 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=CC(=CC=C2)N | C16H13N5O
